US07538231B2
Step B: tert-butyl 3-oxopentanoate
A solution of 5-(1-hydroxypropylidene)-2,2 dimethyl-1,3-dioxane-4,6-dione (18.2 g, 69.4 mmol), tBuOH (19.9 ml, 208 mmol) and benzene (400 ml) was heated at reflux for 6 hours. Concentration in vacuo gave a red liquid.

reactant | 5-(1-hydroxypropylidene)-2,2 dimethyl-1,3-dioxane-4,6-dione | 69.4 mmol, 18.2 g | OC(CC)=C1C(OC(OC1=O)(C)C)=O | C9H12O5
reactant | tBuOH | 208 mmol, 19.9 ml | CC(C)(C)O | C4H10O
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | tert-butyl 3-oxopentanoate | O=C(CC(=O)OC(C)(C)C)CC | C9H16O3
